US07674795B2
The procedure used in Example 6 is followed. In a 25 ml autoclave, dissolve 43 mg of 4-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, in a mixture of 4 ml of ethanol and 4 ml of tetrahydrofuran, add a spatula of Raney activated nickel and then subject to a hydrogen pressure of 1 bar and heat the autoclave at 600 for 12 hours. After cooling, the volume of hydrogen absorbed is 12 ml. After filtration of the catalyst, concentration to dryness under reduced pressure and purification by formation of a paste with diisopropyl ether, in this way we obtain 40 mg of 4-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine, in the form of a beige powder, which is used as it is in the following stage, with the following characteristics:

reactant | hydrogen | [H][H] | H2
reactant | 4-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 43 mg | N1C(=NC2=C1CCCC2)C2=CC=CC=1C(C3=CC=CC=C3C21)=NO | C20H17N3O
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | nickel | [Ni] | Ni
product | 4-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine | 40 mg | N1C(=NC2=C1CCCC2)C2=CC=CC=1C(C3=CC=CC=C3C21)N | C20H19N3
